US09227978B2
5-Bromo-4-chloro-2-vinylbenzenamine
A mixture of 5-bromo-4-chloro-2-iodobenzenamine (2.5 g, 7.51 mmol), tributyl(vinyl)stannane (2.4 g, 7.51 mmol), Pd(PPh3)4 (867 mg, 0.75 mmol) in toluene (25 mL) was stirred at reflux under argon for 16 h. The reaction mixture was allowed to cool to room temperature and quenched with aqueous KF solution. The mixture was partitioned between ethyl acetate and water. The organic layer was washed with brine, dried over Na2SO4 and concentrated. The residue was purified by flash column chromatography on silica gel (petroleum ether/ethyl acetate=20:1) to afford the desired product (1.0 g, 57.4% yield). ESI-MS m/z: 232.2[M+H]+.

reactant | 5-bromo-4-chloro-2-iodobenzenamine | 7.51 mmol, 2.5 g | BrC=1C(=CC(=C(C1)N)I)Cl | C6H4BrClIN
reactant | tributyl(vinyl)stannane | 7.51 mmol, 2.4 g | C(CCC)[Sn](C=C)(CCCC)CCCC
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(PPh3)4 | 0.75 mmol, 867 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-Bromo-4-chloro-2-vinylbenzenamine | 1.0 g, 57.4% yield | BrC=1C(=CC(=C(C1)N)C=C)Cl | C8H7BrClN
